US07479502B2
1-tert-Butyl-3-[2′-hydroxy-5′-(1H-tetrazol-5-yl)-biphenyl-3-ylmethyl]-urea (0.56 g, 1.5 mmol) was dissolved in a mixture of chloroform (0.2 mL, 3 mmol) and sodium hydroxide (10% aqueous, 5 mL, 12 mmol) and the mixture was refluxed for 5 days. The mixture was worked up with 1N hydrochloric acid and ethyl acetate. Some solids precipitated out of solution and were filtered and dried. The organic layer from the extraction was dried and combined with the solids above gives 1-tert-butyl-3-[3′-formyl-2′-hydroxy-5′-(1H-tetrazol-5-yl)-biphenyl-3-ylmethyl]-urea as a 3:1 mixture of starting material to product.

reactant | 1-tert-Butyl-3-[2′-hydroxy-5′-(1H-tetrazol-5-yl)-biphenyl-3-ylmethyl]-urea | 1.5 mmol, 0.56 g | C(C)(C)(C)NC(=O)NCC=1C=C(C=CC1)C1=C(C=CC(=C1)C1=NN=NN1)O | C19H22N6O2
reactant | chloroform | 3 mmol, 0.2 mL | C(Cl)(Cl)Cl | CHCl3
reactant | sodium hydroxide | 12 mmol, 5 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-tert-butyl-3-[3′-formyl-2′-hydroxy-5′-(1H-tetrazol-5-yl)-biphenyl-3-ylmethyl]-urea | C(C)(C)(C)NC(=O)NCC=1C=C(C=CC1)C1=C(C(=CC(=C1)C1=NN=NN1)C=O)O | C20H22N6O3
